US06867323B2
Following General Procedure I, a mixture of hexane washed KH (160 mg, 4.0 mmol, 2.0 equiv), (Z)-21 (344 mg, 2.0 mmol, 1.0 equiv), 1-iodonaphthalene (292 μL, 2.0 mmol) and Pd(dba)2 (58 mg, 0.1 mmol, 0.05 equiv) was stirred in DME (4 mL) at room temperature for 15 min, and then was filtered through SiO2. Purification by column chromatography (RP C18, MeOH/H2O, 9/1) afforded 219 mg (49%) of (Z)-152a and 77 mg (30%) of naphthalene.

reactant | hexane | CCCCCC | C6H14
reactant | 1-iodonaphthalene | 2.0 mmol, 292 μL | IC1=CC=CC2=CC=CC=C12 | C10H7I
solvent | DME | 4 mL | COCCOC | C4H10O2
catalyst | Pd(dba)2 | 0.1 mmol, 58 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | naphthalene | 77 mg, 30% | C1=CC=CC2=CC=CC=C12 | C10H8
